Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Vancomycin / Iodine; Iodine Containing / Meropenem / Ceftriaxone 
/ Ciprofloxacin / Flagyl
 
Attending: ___.
 
Chief Complaint:
Nausea/Diaphoresis/Epigastric Pain
 
Major Surgical or Invasive Procedure:
Cardiac catheterization

 
History of Present Illness:
Ms. ___ is a ___ yoF w/ a h/o AML s/p chemo and BMT, htn,
hyperlipidemia, and GERD who p/w epigastric burning pain and
bilateral upper extremity numbness.  The symptoms started 
between
___ ~ 2 hours prior to presentation and started at rest. At
home she did note associated nausea and diaphoresis. No
associated LH or SOB. She denies any frank chest pain.  No
radiation to back. No fevers, chills, or vomiting. Had been
constipated x few days but had a BM x2 this morning that was
nonbloody. Of note, she had a recent normal stress Echo in
___, ordered because she had some shortness of breath during
her most recent admission for diarrhea. 

In the ED, vital signs were 97.1, HR 56, BP 126/64 RR 16 Sat 97%
on Room Air. ECG showed < 1mm STE 2,3 w/ 1 mm STD 1, aVL and was
discussed with Cardiology fellow.  She received asa, morphine,
lipitor, and was started on heparin gtt (guaiac negative prior 
to
initiation). She received viscous lidocaine and morphine with
resolution of her discomfort. She also received Zofran x 1. 
First
set of cardiac enzymes were negative. Currently chest pain free. 


 
Past Medical History:
- AML  
- Hypertension  
- Hypercholesterolemia  
- GERD  
- Type two diabetes mellitus - diet controlled  
- Diverticulosis, noted on colonoscopy ___ years ago  
- Occasional bronchospasm treated with Primatene Mist  
- h/o SVC clot ___ PORT (s/p course of lovenox)  
- h/o C.Diff ___ & ___  
.  
ONCOLOGIC HISTORY (from OMR):  
The patient was diagnosed with AML in ___ on routine blood work 
that showed pancytopenia, bone marrow biopsy showed 
myelodysplasia with no cytogenetic abnormalities, repeat bone 
marrow biopsy showed acute erythroleukemia admitted ___ for 
induction chemotherapy with 7+3 cytarabine and idarubicin, which 
she tolerated well, Day 14 bone marrow showed zero blasts, 
consistent with complete ablation. She then underwent allogeneic 
transplantation from an HLA matched sibling donor with 
pentostatin/TBI in ___ c/b mild GVHD, skin (mouth ___ and 
colon (preliminary colon bx suggestive of gvhd ___, however 
final diagnosis of no definitive diagnosis of graft-versus-host 
disease communicated after the case has been reviewed).  

 
Social History:
___
Family History:
The patient's mother with a history of stroke. Both of her 
maternal and paternal grandmothers also had a history of CVA. 
Father with history of colon ___. No other known history of 
cancer in the family. No known blood disorders. Has a sister 
with ___. She has 2 sisters, the other sister with 
hypertension. 
 
Physical Exam:
VS 97.9 BP 131/70 HR 65 RR 18 Sat 98% 1K  
Gen: Elderly appearing female in NAD. Oriented x3. Mood, affect
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

Neck: Supple with JVP of 6 cm.  
CV: PMI located in ___ intercostal space, midclavicular line. 
RR,
normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.  
Chest: No chest wall deformities, scoliosis or kyphosis. Resp
were unlabored, no accessory muscle use. Bibasilar crackles ___
up, higher R>L. 
Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
palpation. No abdominial bruits.  
Ext: No c/c/e. No femoral bruits.  
Skin: No stasis dermatitis, ulcers, scars, or xanthomas. 
Neuro: CN II-XII grossly intact, strength ___ symmetric, 
eqivocal ?left upgoing toe.  
.  
Pulses:  
Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  
Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  

 
Pertinent Results:
140|104| ___ / 208   AGap=14 
3.5| 26|1.1 \                                     99
CK: 38  MB: Notdone Trop-T: <0.01       8.0\______/227
ALT: 18 AP: 68 Tbili: 0.2 Alb:             / 38.8 \
AST: 19 ___:  Lip: 41     

ECG ___:
Tracing at 10:29am
Regular Sinus at 65 bpm, Regular intervals, Leftward axis, 1mm
STD I, aVL (downward sloping) wiht 1mm STE in III, aVF, and
possibly in II as well suggesting inferior active ischemia. 

Tracing at 15:59:26
Sinus bradycardia at HR 51 bpm, Q waves in II (1mmx0.5mm), III,
aVF, TWI in III aVF still with ~0.5-1mm STE. Right sided leads
without ischmic changes. 

CXR ___:
1. No acute intrathoracic pathology is noted. 
2. Rim-like lucency is noted under the left hemidiaphragm, the
presence of free air cannot be excluded. If further evaluation 
is
required, right lateral decubitus views of the abdomen can be
obtained. 

Cardiac Cath ___
1. Coronary angiography of this right dominant system revealed 
severe 2 vessel coronary disease. The LMCA was normal. The LAD 
had a mid 
90% stenosis. The LCX had no obstructive coronary disease. The 
RCA had 
serial stenoses, the greatest of which was 99% in the 
mid-portion with 
evidence of thrombus or dissection. 2. Resting hemodynamics 
revealed 
normal systemic arterial blood pressure with an SBP of 136 mm 
Hg. 3. 
Left ventriculography was not performed. Successful 
thrombectomy, and 
direct stenting of the proximal and mid RCA lesions with 
overlapping 
(distal to proximal) 3x33, 3.5x13,3.5x23, 3.5x13mm cypher stents 
post 
dilated to 4.0mm. Final angiography revealed 0% residual 
stenosis, no 
angiographically apparent dissection and timi 3 flow. The 
patient left 
the lab free of angina and in stable condition (see ___ 
comments). 
FINAL DIAGNOSIS:     
1. Two vessel coronary artery disease. 
.
TTE (Focused views) Done ___
There is mild regional left ventricular systolic dysfunction 
with focal basal to mid inferior akinesis. Overall left 
ventricular systolic function is low normal (LVEF 50-55%). The 
right ventricular cavity is mildly dilated with free wall 
hypokinesis. The aortic valve leaflets (3) are mildly thickened 
but aortic stenosis is not present. The left ventricular inflow 
pattern suggests impaired relaxation. The pulmonary artery 
systolic pressure could not be determined. There is a 
trivial/physiologic pericardial effusion. There is an anterior 
space which most likely represents a fat pad. There are no 
echocardiographic signs of tamponade. 
Compared with the prior study (images reviewed) of ___, 
the inferior wall motion abnormality is new and the right 
ventricular basal free wall motion abnormality is also new. 
Additional views maybe helpful to fully assess the right 
ventricle.  
 
Brief Hospital Course:
1. MYOCARDIAL ELEVATION, TRANSIENT ST ELEVATION
The patinet was started on heparin in the ED after she developed 
transient ST elevations in inferior leads and lateral STD; 
initial cardiac enzymes were negative. ECG evolved over the next 
six hours with TWI in interior leads and resolution of lateral 
STD. Biomarkers returned positive later (peak CK 1500, peak 
troponin 6.89 at 2p ___, and she was started on integrilin and 
plavix loaded with 600mg PO x1. She had no further episodes of 
her presenting constellation of symptoms, but did have 
intermittent epigastric discomfort and nausea. ECG on am of 
___ had reemergence of lateral STD and she was taken to the 
catheterization lab.  4 stents were placed in the RCA.  LAD 
lesion not intervened upon as it was not the culprit lesion.  
Post Cath ECHO showed EF 44% and basal hypokinesis.  Unclear 
what options remain for intervention should she develop in-stent 
thrombosis/restenosis or LAD occlusion; CABG may be an option.  
Dr. ___ was scheduled to evaluate as an outpt ___ and 
discuss these options.   Continued medical therapy with ASA, 
Plavix, statin, betablocker.  Patient was transitioned to toprol 
XL 25mg daily prior to discharge.

2. ANAPHYLACTOID/CONTRAST ALLERGY
The patient developed an anaphylactoid reaction to IV contrast 
used during cardiac cath.  Prior to the procedure on ___, 
she was started on fluids, diphenhydramine 50mg po, ranitidine 
150mg po, methylprednisolone 125mg IV, and prednisone 40mg as 
pretreatment for a known iodidine allergy. She received 150mL of 
Omnipaque and 220mL of Optiray during the procedure.  The 
evening of her procedure she developed generalized erythema. She 
had no other complaints at the time, SBP was ___, and exam was 
normal except for diffuse blanching erythema. She was treated 
with diphenhydramine 50mg po and continued on IVF. She had a 
post-cath check at 9:40pm, at which time her VS included T 
100.0, BP 110/53, and she was given an IVF bolus. A trigger was 
called at midnight ___ for BP 71/31, with HR 94 and T 102.8. 
Exam was unchanged and with clear lungs, ECG with Q waves and 
<1mm STE inferiorly. Repeat labs showed stable Hct, CEs trending 
down, creatinine 1.4 up from 0.9. She was given diphenhydramine 
50mg po, fexofenadine 60mg, and IV fluids. SBPs persisted in the 
___, so she was given epinephrine 0.3mg x 2. She was transferred 
to the CCU for close monitoring and dopamine.  Allergy was 
consulted and felt an anaphylactoid to IV contrast was most 
consistent with the patient's known allergies; allergy 
recommended 125mg IV Solumedrol x3 days followed by a taper. She 
was quickly titrated off dopamine and her blood pressures 
normalized.  The patient was also treated with standing 
diphenhydramine and ranitidine.  Her rash erythema improved. 
Upon discharge, the patient was prescribed prednisone 60 mg PO 
on ___, 50 mg PO on ___, 40 mg PO on ___, 30 mg PO on ___, 20 
mg PO on ___, and from ___ and onward 10 mg daily until 
otherwise directed by her outpatient team.
.
3. ACUTE RENAL FAILURE:  The patient's course was complicated by 
prerenal failure from poor forward flow in setting of 
hypotension; her acute renal failure improved to 1.0 as she 
became normotensive.
.
4. ADRENAL INSUFFICIENCY:  She was diagnosed by cortisol stim 
test during admission last year.  Steroids were being tapered 
off slowly, was down to 10mg daily.  Received 125mg 
methylprednisolone in setting of hypotension initially, then 
steroid regimen as per anaphylactoid reaction treatment 
described above.
.
5. DM2: Diet-controlled at baseline.  Blood glucose was elevated 
secondary to steroids.  She was provided with sliding scale 
insulin.
 
Medications on Admission:
ACYCLOVIR 400 mg TID
ALBUTEROL SULFATE ___ puffs Q4H prn
DESONIDE 0.05 % Cream to affected areas of face BID
LATANOPROST 0.005 % Drops - 1 gtt ___ at bedtime
LORAZEPAM 0.5 mg Tablet - ___ Tablets q4-6 hours as needed for
nausea, anxiety, insomnia
PANTOPRAZOLE 40 mg BID
PENTAMIDINE 300 mg inh qmonth x 6 months diluted in 6ml sterile
water. Please administer via aerosol. Two puffs albuterol inh
prior to treatment prn.
PREDNISONE 10 mg once a day 
TRIAMCINOLONE ACETONIDE
AMMONIUM LACTATE 
B12 INJ Qmonth

 
Discharge Medications:
1. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
2. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
3. Acyclovir 200 mg Capsule Sig: Two (2) Capsule PO Q8H (every 8 
hours).  
4. Albuterol  Inhalation
5. Metoprolol Succinate 25 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).
Disp:*30 Tablet Sustained Release 24 hr(s)* Refills:*2*
6. Desonide  Topical
7. Latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS (at 
bedtime).  
8. Lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime) as needed.  
9. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q12H (every 12 hours).  
10. Prednisone 10 mg Tablet Sig: Six (6) Tablet PO once a day: 
___: Take 6 tablets; ___ take 5 tablets; ___ take 4 tablets; 
___ take 3 tablets; ___ take 2 tablets; ___ and onward, take 1 
tablet.
Disp:*50 Tablet(s)* Refills:*2*
11. Ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO once a 
day.
Disp:*30 Tablet(s)* Refills:*2*
12. Atorvastatin 80 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
13. Diphenhydramine HCl 25 mg Capsule Sig: ___ Capsules PO Q6H 
(every 6 hours) as needed for itching.
Disp:*60 Capsule(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
ST elevation myocardial infarction s/p stent to RCA
Anaphylactoid reaction to IV contrast

 
Discharge Condition:
Stable, on room air, ambulating; cleared by ___

 
Discharge Instructions:
You were admitted with chest pain and were found to have a 
blockage in one of your coronary arteries, which caused a heart 
attack. It was diagnosed with coronary angiography and treated 
with a stent to the artery. You had a reaction to the contrast 
dye given during angiography which caused a diffuse body rash 
and required ICU transfer. You were treated with IV steroids and 
antihistamines, and you improved. You have been set up with many 
followup appointments.
.
Please take all of your medications as prescribed and keep all 
of your follow up appointments. If you develop any shortness of 
breath, chest pain, nausea, vomiting, fevers, chills, or other 
concerning symptoms, please seek medical attention immediately. 
 
Followup Instructions:
___